US06593344B1
N-[4-(4-Benzotriazol-1-yl-piperidin-1-yl)-butyl]-3-pyridin-3-yl-acrylamide (Substance 60)
Batch size: 3.1 g (22.5 mmol) 3-(3-pyridyl)-acrylic acid, 5.4 ml (45 mmol) oxalyl chloride and 5.6 g (20.5 mmol) 4-(4-benzotriazol-1-yl-piperidin-1-yl)-butylamine.

reactant | 3-(3-pyridyl)-acrylic acid | 22.5 mmol, 3.1 g | N1=CC(=CC=C1)C=CC(=O)O | C8H7NO2
reactant | oxalyl chloride | 45 mmol, 5.4 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(4-benzotriazol-1-yl-piperidin-1-yl)-butylamine | 20.5 mmol, 5.6 g | N1(N=NC2=C1C=CC=C2)C2CCN(CC2)CCCCN | C15H23N5
product | N-[4-(4-Benzotriazol-1-yl-piperidin-1-yl)-butyl]-3-pyridin-3-yl-acrylamide | N1(N=NC2=C1C=CC=C2)C2CCN(CC2)CCCCNC(C=CC=2C=NC=CC2)=O | C23H28N6O
